US06617330B2
(6-Bromo-3-propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene)methylamine
In a sulfonation flask, 1.2 g (0.0045 mol) (3-propyl-2-propoxy-3H-thieno[2,3-d]-pyrimidine-4-ylidene)methylamine are dissolved in 15 ml of absolute pyridine. Then the internal temperature is raised to 60° C. and 1.2 g (0.0068 mol) N-bromosuccinimide are added in three portions. After stirring for 3 hours at 60° C., the pyridine is distilled off in a water jet vacuum and the residue taken up in ethylacetate. The organic phase is washed three times with water and after drying the organic phase over Na2SO4 the solvent is removed in a water jet vacuum. The raw material is purified by column chromatography over silica gel (eluant: hexane/ethylacetate 3:1). Yield: 1.2 g of (6-bromo-3-propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene)methylamine in the form of a brownish oil (1H-NMR-data see table 5).

reactant | (3-propyl-2-propoxy-3H-thieno[2,3-d]-pyrimidine-4-ylidene)methylamine | 0.0045 mol, 1.2 g | C(CC)N1C(=NC2=C(C1=CN)C=CS2)OCCC | C13H19N3OS
reactant | N-bromosuccinimide | 0.0068 mol, 1.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (6-Bromo-3-propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene)methylamine | BrC1=CC2=C(N=C(N(C2=CN)CCC)OCCC)S1 | C13H18BrN3OS
